US06037342
2-(4-Pyridyl)benzoxazole
A 500 mg portion of pyridine-4-aldehyde was dissolved in 15 ml of acetic acid, and the solution was mixed with 509 mg of o-aminophenol and stirred with heating at 100° C. for 6 hours. The solvent was concentrated under a reduced pressure, and the residual oily matter was mixed with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate, and then the solvent was evaporated under a reduced pressure. Thereafter, the thus obtained mixture was purified by a silica gel column chromatography (ethyl acetate:hexane=1:1) to obtain the title compound (90 mg) in light yellow color.

reactant | pyridine-4-aldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | o-aminophenol | 509 mg | NC1=C(C=CC=C1)O | C6H7NO
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Pyridyl)benzoxazole | 90 mg | N1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C12H8N2O
